US08278442B2
Preparation 90: 4-(8-Aminomethylquinolin-4-yloxy)benzamide
A mixture of C-(4-chloroquinolin-8-yl)methylamine (Preparation 89) (129 mg, 0.67 mmol), K2CO3 (186 mg, 1.34 mmol) and 4-hydroxybenzamide (110 mg, 0.81 mmol) in DMF (4 mL) were heated in a microwave at 100° C. for 40 min (150 W). Solvent removed in vacuo. The mixture was partitioned between EtOAc (50 mL) and water (20 mL), and the aqueous phase was further extracted with EtOAc (2×20 mL). The combined organic phase was washed with brine (20 mL) and dried (MgSO4). Solvent was removed in vacuo and the residue purified by column chromatography (0.25% to 0.75% NH4OH(aq), 2% to 8% MeOH in DCM) to give the title compound: RT=2.15 min; m/z (ES+)=294.1 [M+H]+.

reactant | C-(4-chloroquinolin-8-yl)methylamine | 0.67 mmol, 129 mg | ClC1=CC=NC2=C(C=CC=C12)CN | C10H9ClN2
reactant | K2CO3 | 1.34 mmol, 186 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-hydroxybenzamide | 0.81 mmol, 110 mg | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-(8-Aminomethylquinolin-4-yloxy)benzamide | NCC=1C=CC=C2C(=CC=NC12)OC1=CC=C(C(=O)N)C=C1 | C17H15N3O2
